US04460596
2 g of 2-[2-phenyl-5-(3-thienyl)-4-oxazolyl]acetic acid, 3 g of thionyl chloride and 30 ml of n-butanol are treated in the same manner as described in Example 13. 0.8 g of n-butyl 2-[2-phenyl-5-(3-thienyl)-4-oxazolyl]acetate is thereby obtained. Yield: 33.5%

reactant | 2-[2-phenyl-5-(3-thienyl)-4-oxazolyl]acetic acid | 2 g | C1(=CC=CC=C1)C=1OC(=C(N1)CC(=O)O)C1=CSC=C1 | C15H11NO3S
reactant | thionyl chloride | 3 g | S(=O)(Cl)Cl | Cl2OS
solvent | n-butanol | 30 ml | C(CCC)O | C4H10O
product | n-butyl 2-[2-phenyl-5-(3-thienyl)-4-oxazolyl]acetate | 0.8 g, Yield: 33.5% | C1(=CC=CC=C1)C=1OC(=C(N1)CC(=O)OCCCC)C1=CSC=C1 | C19H19NO3S
